* Z:\home\guido\Github\VoltageSupervisor\ESP32VoltageSupervisor.asc
Q1 N002 N004 0 0 BC182B
V1 N001 0 PULSE(0 3.3 0 0.02 0.01 0.01 2)
R1 N001 N002 100K
Q2 RESETN N003 0 0 BC182B
R3 N001 RESETN 15K
R5 N003 N002 220K
R4 N001 N004 68K
R2 N004 P001 3.3K
D1 P001 0 1N4148
.model D D
.lib C:\users\guido\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\guido\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 30m
.TEMP 0 20 40 60
.backanno
.end
